US04859229
using 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione with cyclohexylmethyl isocyanate and triethylamine in methylene chloride there is obtained 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H) -pyrimidinyl]-4-fluorophenyl cyclohexylmethylcarbamate, m.p. 132°-135° C.;

reactant | 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C12H7ClF4N2O3
reactant | cyclohexylmethyl isocyanate | C1(CCCCC1)CN=C=O | C8H13NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H) -pyrimidinyl]-4-fluorophenyl cyclohexylmethylcarbamate | C1(CCCCC1)CNC(OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl)=O | C20H20ClF4N3O4
